US03998966
To a mixture of 24.4 g. of methyl 6-hydroxymethyl-2-naphthyl-α-methylacetate (prepared from 6-hydroxymethyl-2-naphthyl-α-methylacetic acid by esterifying the latter by means of the procedure described in Part A of this example) and 500 ml. of benzene are added 2.4 g. of sodium hydride. The resulting mixture is stirred for two hours; then 12.2 g. of methyliodide are added. The resulting mixture is next neutralized by the addition of aqueous 1N hydrochloric acid after it has been allowed to stand for one hour; the mixture is then washed with water, dried over sodium sulfate, and evaporated to give methyl 6-methoxymethyl-2-naphthyl-α-methylacetate.

reactant | methyl 6-hydroxymethyl-2-naphthyl-α-methylacetate | OCC=1C=C2C=CC(=CC2=CC1)C(C(=O)OC)C | C15H16O3
reactant | 6-hydroxymethyl-2-naphthyl-α-methylacetic acid | OCC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C14H14O3
reactant | sodium hydride | [H-].[Na+]
reactant | methyliodide | CI | CH3I
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | methyl 6-methoxymethyl-2-naphthyl-α-methylacetate | COCC=1C=C2C=CC(=CC2=CC1)C(C(=O)OC)C | C16H18O3
